US04563291
In a preferred embodiment, diethanol amine is charged to the reaction vessel in a substantially equal molar quantity to a 54 percent aqueous solution the sodium salt of isethionic acid. The reactants then are heated to a temperature of about 200° F. at ambient temperature for a sufficient period of time to separate about 38 percent by weight of the reactants as water in the cold finger trap. The bis-hydroxyethylaminoethane sulfonic acid which is produced in about a 100 percent yield is diluted to about a 50 percent solution by the addition of water.

reactant | diethanol amine | N(CCO)CCO | C4H11NO2
reactant | sodium | [Na] | Na
reactant | isethionic acid | S(=O)(=O)(O)CCO | C2H6O4S
product | bis-hydroxyethylaminoethane sulfonic acid | 100 percent yield | OCCN(CCO)C(C)S(=O)(=O)O | C6H15NO5S
